Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Right breast cancer
 
Major Surgical or Invasive Procedure:
Right Total simple mastectomy & axillary Sentinel Lymph Node 
Biopsy
Takeback for postoperative breast hematoma formation.

 
History of Present Illness:
___ y/o female, full time ___ student, paternal family history of 
multiple cancers presents with new diagnosis of ER/PR positive, 
HER2 negative invasive ductal carcinoma of right breast 
measuring 3.7 cm on MRI imaging presenting for scheduled 
excision of R breast cancer.

Briefly, in ___, Ms. ___ first felt a painful lump in 
her right breast around 11 o'clock position extending to her 
nipple that fluctuated in size and discomfort. Pain recurred in 
___ during menstruation prompting medical evaluation. 
She also noticed a focal pain in her left breast around 1 
o'clock position and another abnormality in her right breast at 
8 o'clock position. On ___ she had a breast ultrasound at 
___ that showed a mass measuring 30x28x31 millimeters in upper 
outer quadrant of right breast at 11 o'clock and 5 cm from 
nipple. Focused US evaluation at 1 o'clock position in left 
breast and 8 o'clock position in right breast was unremarkable. 
On ___, an US guided core biopsy and clip placement at 11 
o'clock position in right breast revealed grade 3, ER positive 
(50-90%, strong staining), PR positive ___, moderate 
staining), and HER2 2+ by IHC and negative by FISH (HER2/CEP17 
ratio 1.1, copy number per cell for HER2: 1.7, CEP17: 1.5) 
invasive ductal carcinoma with mucinous features. On ___ 
she was seen by Dr. ___ at ___ who recommended further 
diagnostics including bilateral breast MRI, genetic testing, 
fertility counseling and echocardiogram in preparation for 
likely neoadjuvant chemotherapy given tumor size and grade. On 
___ bilateral breast MRI revealed 1. irregular enhancing 
3.7cm mass in right breast at 11 o'clock, 2 multiple smaller 
masses in right breast with total extent of disease measuring 
6.1cm in AP dimension along with a 0.4cm enhancing mass anterior 
to pectoralis muscle suggestive of multicentric disease, 3. 
suspicious right axillary lymphadenopathy and 4. unremarkable 
left breast. On ___ was seen by a fertility specialist at 
___ who discussed possibility of reduced fertility 
after chemotherapy, fertility preservation options such as 
oocyte or embryo freezing, as well as option of donor oocytes 
and cautioned against OCP use. Pt subsequently decided to 
transfer her care to ___. On ___, a bilateral mammogram 
at ___ showed multicentric disease with dominant mass 
corresponding to previously placed clip and pleomorphic 
microcalcifications extending 9.5 cm x 9 cm from medial to the 
lateral breast. The left breast was unremarkable. And same day 
right axillary ultrasound showed multiple normal-appearing 
axillary nodes with normal fatty hilum and cortical thickening 
up to 3 mm. Ms. ___ prior imaging at ___ and ___ images 
taken today were reviewed in Multidisciplinary Breast Care 
Clinic conference. Her right axillary nodes were thought to be 
benign with mildly thickened cortices. In addition, our genetics 
team has located recent molecular testing that shows no 
abnormalties on a 28 ___ panel including BRCA ___ with ___ 
testing, CDH1, CHEK1 & p53 among other mutations. She currently 
reports no symptoms. Has minimal discomfort in her breast. The 
patient denies any fever, night sweats, chills, cough, chest 
pain, sob, diarrhea, abdominal pain, dysuria, headaches, nausea 
or vomiting. Has occasional tingling in her feet that 
self-resolves, usually when sitting. Also has mild edema in 
lower extremities after a long day of standing which resolved 
with leg elevation.
 
Past Medical History:
low iron, deviated septum
Menarche: 12, last menstrual
period ___, never pregnant, no birth control
 
Social History:
___
Family History:
Three paternal uncles with cancer, one gastric, one liver or 
pancreatic and one lung, all died in their ___. No known 
___ Jewish ancestry, however mom's dad was ___. Mother 
has sickle cell trait. Has two brother and two sister (1 is 
identical twin) who are healthy with no history of cancer.
 
Physical Exam:
DISCHARGE PHYSICAL EXAM:

VITALS: 98.9   102    112 / 63    20    99
GENERAL: WA/WD, age appropriate, NAD, AOx3
HEENT: NC/AT, no scleral icterus, PERRLA, EOMI, MMM
NECK: supple 
LYMPHATICS: no axillary or supraclavicular LAD 
LUNGS: CTA b/l, no crackles or wheezes
CARDIOVASCULAR: RRR
BREAST: RIGHT breast s/p surgery, incisions c/d/i, minimal edema 
around incision sites, appropriately tender
ABDOMEN: soft, nd, nttp
EXTREMITIES: MAE/WWP/no CCE
NEUROLOGICAL: grossly intact, nonfocal
 
Pertinent Results:
___ 07:08PM   HCT-23.6*
___ 07:08PM BLOOD Hct-23.6*
 
Brief Hospital Course:
Ms ___ presented to ___ on ___ for scheduled Right 
total simple mastectomy and Right axillary sentinel lymph node 
biopsy. She tolerated the procedure well and was moved the PACU 
for post-surgical care. Immediately in her post-op course, she 
was found to have rapidly expanding fluid collection in her 
Right breast concerning for hematoma, so she was taken back to 
the OR the same day for evacuation of the hematoma. There was no 
overt bleeding vessel found, and she tolerated the procedure 
well. She was moved to the PACU for post-operative monitoring 
and was transferred to the floor.

CV: Vital signs were routinely monitored during the patient's 
length of stay. The patient had a couple of episodes of 
dizziness and tachycardia upon standing and walking, which were 
most likely secondary to her acute drop in hemoglobin/hematocrit 
from surgery. She received intravenous fluids as needed. There 
were no cardiac events during her postoperative course.
Pulm:  The patient was encouraged to ambulate, sit and get out 
of bed, use the incentive spirometer, and had oxygen saturation 
levels monitored as indicated.
GI: The patient was given a regular diet after the procedure.
GU: Urine output was monitored as indicated. At time of 
discharge, the patient was voiding without difficulty.  
ID:  The patient's vital signs were monitored for signs of 
infection and fever, of which there were none.
Heme: The patient had blood levels checked post operatively 
during the hospital course to monitor for signs of bleeding. The 
patient had vital signs, including heart rate and blood 
pressure, monitored throughout the hospital stay. Her last 
hemoglobin was recorded at 5.8, which was thought to be 
primarily dilutional in nature. She did not require blood 
products while in the hospital.

On ___, the patient was discharged to home. At discharge, 
she was tolerating a regular diet, passing flatus, voiding, and 
ambulating independently. Her dizziness continued to resolve. 
She will follow-up in the clinic in ___ weeks. This information 
was communicated to the patient directly prior to discharge. 
 
Medications on Admission:
none
 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*50 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID  
3.  Ibuprofen 400-800 mg PO Q8H:PRN Pain - Severe 
RX *ibuprofen 400 mg ___ tablet(s) by mouth every eight (8) 
hours Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right Breast Carcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Personal Care:  
1. You may keep your incisions open to air or covered with a 
clean, sterile gauze that you change daily.
2. Clean around the drain site(s), where the tubing exits the 
skin, with soap and water.  Do not shower while the drains are 
in place.
3. Strip drain tubing, empty bulb(s), and record output(s) ___ 
times per day.  
4. A written record of the daily output from each drain should 
be brought to every follow-up appointment. your drains will be 
removed as soon as possible when the daily output tapers off to 
an acceptable amount.  
5. You may wear a surgical bra or soft, loose camisole for 
comfort.  
6. Do not shower while the drains are in place.
7. The Dermabond skin glue will begin to flake off in about ___ 
days.  

Activity:  
1. You may resume your regular diet.  
2. Walk several times a day.  
3. DO NOT lift anything heavier than 5 pounds or engage in 
strenuous activity for 6 weeks following surgery. 

Medications:  
1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered .  
2. You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenol or Extra Strength Tylenol 
for mild pain as directed on the packaging. You may also take 
ibuprofen for pain control.  

Call the office IMMEDIATELY if you have any of the following:  
1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s).  
2. A large amount of bleeding from the incision(s) or drain(s).  

3. Fever greater than 101.5 oF  
4. Severe pain NOT relieved by your medication.  
  
Return to the ER if:  
* If you are vomiting and cannot keep in fluids or your 
medications.  
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you.  
* Any serious change in your symptoms, or any new symptoms that 
concern you.  

DRAIN DISCHARGE INSTRUCTIONS  
You are being discharged with drains in place. Drain care is a 
clean procedure. Wash your hands thoroughly with soap and warm 
water before performing drain care. Perform drainage care twice 
a day. Try to empty the drain at the same time each day. Pull 
the stopper out of the drainage bottle and empty the drainage 
fluid into the measuring cup. Record the amount of drainage 
fluid on the record sheet. Reestablish drain suction. Do not 
shower while your drains are in place.

A daily log of individual drain outputs should be maintained and 
brought with patient to follow up appointment with your surgeon.
 
Followup Instructions:
___